Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Recurrent left hip hemiarthroplasty dislocation
 
Major Surgical or Invasive Procedure:
___: Fluoroscopic-guided aspiration of the left hip

 
History of Present Illness:
___ presenting with left leg pain and unable to ambulate.
Patient had left hip hemiarthroplasty in ___. Patient did 
have
dislocation yesterday and was reduced at ___. Today he
tried to get up from a sitting position and felt a pop. He was
unable to ambulate after that time. Complaining of ___ left hip
pain.
 
Past Medical History:
Past Medical History:
1) status post left great toe debridement ___ 
2) CAD s/p MI in ___ treated with a stent which restenosed 
and was redone in ___. Neg stress MIBI 6 months ago.
3) Lumbar fusion in ___ at ___, ?L4-L5
4) DM 
5) Gastroparesis
6) HTN

- CAD s/p MI x 2
---> Anterior MI s/p proximal LAD stent ___
---> ISR ___ requiring restenting
- DM2 c/b neuropathy
- AV endocarditis in ___
- Chronic back pain
- HTN

 
Social History:
___
Family History:
NC
 
Physical Exam:
A&O x 3
Calm and comfortable 

BLE skin clean and intact
RLE short leg cast clean and intact
No tenderness, deformity, erythema, edema, induration or 
ecchymosis
Thighs and legs are soft
No pain with passive motion
Saph Sural DPN SPN MPN LPN ___ FHL ___ TA PP Fire
1+ ___ and DP pulses LLE (RLE in cast but toes WWP)
 
Pertinent Results:
___ 09:15AM BLOOD WBC-6.6 RBC-3.62* Hgb-10.0* Hct-31.5* 
MCV-87 MCH-27.7 MCHC-31.9 RDW-13.5 Plt ___
___ 09:15AM BLOOD ___ PTT-33.4 ___
___ 09:15AM BLOOD Glucose-170* UreaN-21* Creat-1.0 Na-135 
K-4.3 Cl-98 HCO3-30 AnGap-11
___ 09:15AM BLOOD Calcium-9.2 Phos-2.7 Mg-1.8

___ 01:00PM JOINT FLUID WBC-4000* ___ Polys-95* 
___ Monos-0 Eos-2*
___ 01:00PM JOINT FLUID Crystal-NONE

___ 12:45 pm JOINT FLUID      SOURCE: LEFT HIP SYNOVIAL 
FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a left hip hemiarthroplasty anterior dislocation and was 
closed reduced in the ED with sedation. Post-reduction films 
confirmed reduction of the left hip dislocation. He was admitted 
to the orthopedic surgery service. On HD#2 he was taken to the 
radiology suite with Interventional Radiology for a fluorscopic 
guided hip aspiration to ascertain if his recurrent dislocations 
could be caused by occult hip infection. The cell count from the 
spiration was 4000 WBCs and ___ RBCs, negative crystals, 
final culture no growth, confirming that this was not due to a 
prosthetic joint infection. For his right ankle fracture, which 
was treated with ORIF at ___, a cast change and 
wound check was performed on HD#3 showing incisions healing 
well. 

After discussion with the patient it was decided to treat his 
recurrent dislocations with strict left hip anterior hip 
dislocation precautions. He was made WBAT in the LLE with STRICT 
ANTERIOR hip precautions: to keep left leg internally rotated, 
abducted, and flexed at all times. While in bed, the left leg 
was placed in a multipodis boot with lateral kickstand to place 
leg in 15 degrees of internal rotation, with a pillow under knee 
to keep hip in flexion. He was allowed to sit in chair or on 
commode without abduction brace as long as anterior hip 
precautions are followed. While ambulating, he must have a left 
hip abduction brace in place; this was made by Ortho Tech to 
place his left hip in 15 degrees of hip flexion and ___ degrees 
of hip abduction. He was made NWB in the RLE in his cast per the 
instructions of Dr. ___, who performed the surgical 
fixation of his right ankle at ___.

He was placed on a diabetic diet pain was controlled with oral 
medications. The patients home medications were continued 
throughout this hospitalization. The patient worked with ___ who 
determined that discharge to home was appropriate. He will not 
be able to ambulate due to his precautions but was evaluated and 
found to be safe with his precautions for wheelchair transfers. 
The ___ hospital course was otherwise unremarkable.

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, and the patient was 
voiding/moving bowels spontaneously. The patient is NWB in the 
RLE in a cast, WBAT in the LLE with STRICT ANTERIOR hip 
dislocation precautions, and will be discharged on Lovenox for 
DVT prophylaxis.  The patient will follow up in two weeks per 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course, and 
all questions were answered prior to discharge.
 
Medications on Admission:
1. Aspirin 325 mg PO DAILY  
2. Atenolol 25 mg PO DAILY  
3. Citalopram 40 mg PO DAILY  
4. Gabapentin 400 mg PO TID  
5. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol  
6. Glucose Gel 15 g PO PRN hypoglycemia protocol  
7. Enoxaparin Sodium 40 mg SC QPM Duration: 14 Days RX 
*enoxaparin 40 mg/0.4 mL 40 mg SC once a day Disp #*14 Syringe 
Refills:*0 
8. Tamsulosin 0.4 mg PO HS  
9. Pravastatin 80 mg PO DAILY  
10. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
11. Glargine 26 Units Bedtime Insulin SC Sliding Scale using HUM 
Insulin 
 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Citalopram 40 mg PO DAILY 
4. Gabapentin 400 mg PO TID 
5. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
6. Glucose Gel 15 g PO PRN hypoglycemia protocol 
7. Enoxaparin Sodium 40 mg SC QPM Duration: 14 Days 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC once a day Disp #*14 
Syringe Refills:*0
8. Tamsulosin 0.4 mg PO HS 
9. Pravastatin 80 mg PO DAILY 
10. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every six (6) hours Disp #*40 Tablet Refills:*0
11. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
12. Glargine 26 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
13. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left hip hemiarthroplasty dislocation - not infected
Right ankle fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take Lovenox 40 mg daily for 2 weeks

WOUND CARE:
- Keep right leg cast clean and dry

ACTIVITY AND WEIGHT BEARING:
Activity: Activity as tolerated
Right lower extremity: Non weight bearing in cast
Left lower extremity: Full weight bearing
 - Left leg STRICT ANTERIOR hip precautions: keep left leg 
internally rotated, abducted, and flexed at all times.
 - While in bed: left leg should be in multipodis boot with 
lateral kickstand to place leg in 15 degrees of internal 
rotation, place pillow under knee to keep hip in flexion
 - OK to sit in chair or on commode without abduction brace as 
long as anterior hip precautions are followed
 - While ambulating: must have left hip abduction brace with 15 
degrees of hip flexion and ___ degrees of hip abduction to 
ambulate
Physical Therapy:
Activity: Activity as tolerated
Right lower extremity: Non weight bearing
Left lower extremity: Full weight bearing
 - Left leg STRICT ANTERIOR hip precautions: keep left leg 
internally rotated, abducted, and flexed at all times.
 - While in bed: left leg should be in multipodis boot with 
lateral kickstand to place leg in 15 degrees of internal 
rotation, place pillow under knee to keep hip in flexion
 - OK to sit in chair or on commode without abduction brace as 
long as anterior hip precautions are followed
 - While ambulating: must have left hip abduction brace with 15 
degrees of hip flexion and ___ degrees of hip abduction to 
ambulate
Treatments Frequency:
None
 
Followup Instructions:
___